US06489344B1
Preparation of Polymer-bound (2-morpholin-4-ylethyl){2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine
Made using the same procedure as for polymer-bound [2-(dimethylamino)ethyl]{2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine except that 4-(2-hydroxyethyl)morpholine (5.1 mL, 42 mmol) was used.

reactant | [2-(dimethylamino)ethyl]{2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine | CN(CCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCNC1=NC=C(C=C1)[N+](=O)[O-])C | C17H22N6O6S
reactant | 4-(2-hydroxyethyl)morpholine | 42 mmol, 5.1 mL | OCCN1CCOCC1 | C6H13NO2
product | (2-morpholin-4-ylethyl){2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine | N1(CCOCC1)CCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCNC1=NC=C(C=C1)[N+](=O)[O-] | C19H24N6O7S
